US06881733B1
1-benzyl-3-methyl-4-hydroxy-4-(4-trifluoromethylbenzofur-7-yl)piperidine
Beginning with 1.5 gm (5.7 mMol) 4-trifluoromethyl-7-bromobenzofuran and 1.26 gm (6.2 mMol) 1-benzyl-3-methyl-4-oxopiperidine, 0.85 gm (39%) of the desired compound were recovered essentially as described in EXAMPLE 3.

reactant | 4-trifluoromethyl-7-bromobenzofuran | 5.7 mMol, 1.5 gm | FC(C1=CC=C(C2=C1C=CO2)Br)(F)F | C9H4BrF3O
reactant | 1-benzyl-3-methyl-4-oxopiperidine | 6.2 mMol, 1.26 gm | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
product | 1-benzyl-3-methyl-4-hydroxy-4-(4-trifluoromethylbenzofur-7-yl)piperidine | 0.85 gm, 39% | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=CC=C(C=2C=COC21)C(F)(F)F)O)C | C22H22F3NO2
